US05478825
5-Diisopropylamino-7-methyl-2-morpholino-1,2,4-triazolo[1,5-a]pyrimidine
To a solution of 2.54 g (0.01 mole) of 5-chloro-7-methyl-2-morpholino-1,2,4-triazolo[1,5-a]pyrimidine in 10 ml of dimethylformamide 2.02 g (0.02 mole≈2.8 ml) of diisopropylamine are added, and the reaction mixture is boiled for 24 hours under stirring. The solution thus obtained is evaporated to dryness in vacuo and the residue is recrystallized from 20 ml of water.

reactant | 5-chloro-7-methyl-2-morpholino-1,2,4-triazolo[1,5-a]pyrimidine | 0.01 mole, 2.54 g | ClC1=NC=2N(C(=C1)C)N=C(N2)N2CCOCC2 | C10H12ClN5O
reactant | dimethylformamide | 0.02 mole, 10 ml, 2.02 g | CN(C=O)C | C3H7NO
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | 5-Diisopropylamino-7-methyl-2-morpholino-1,2,4-triazolo[1,5-a]pyrimidine | C(C)(C)N(C1=NC=2N(C(=C1)C)N=C(N2)N2CCOCC2)C(C)C | C16H26N6O
